US05952351
A solution of 1-tert-butoxycarbonyl-4-(5-fluoro-3-(2,2,2-tri-fluoroethyl)-2-oxo-1-benzimidazolinyl)piperidine (4.17 g, 10 mmol.) in chloroform (50 mL) containing trifluoroacetic acid (5.5 mL) was stirred at room temp. under an inert atmosphere for 6-12 hours until reaction was complete. The solvent and excess TFA were removed and the residue redissolved in chloroform. This solution was washed with Na2CO3 /NaOH solution. The organic layer was dried (Na2SO4), filtered through a pad of charcoal, and the solvent evaporated to give 4-(5-fluoro-3-(2,2,2-trifluoroethyl)-2-oxo-1-benzimidazolinyl)piperidine as a viscous oil which was used as is. A sample of this material was converted to the HCl salt and after crystallization from methanol gave a white solid, mp: >280° C.

reactant | 1-tert-butoxycarbonyl-4-(5-fluoro-3-(2,2,2-tri-fluoroethyl)-2-oxo-1-benzimidazolinyl)piperidine | 10 mmol, 4.17 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(N(C2=C1C=CC(=C2)F)CC(F)(F)F)=O | C19H23F4N3O3
reactant | trifluoroacetic acid | 5.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(5-fluoro-3-(2,2,2-trifluoroethyl)-2-oxo-1-benzimidazolinyl)piperidine | FC1=CC2=C(N(C(N2CC(F)(F)F)=O)C2CCNCC2)C=C1 | C14H15F4N3O
